US07060827B2
In like manner to the preparation of N2-(3,4-ethylenedioxyphenyl)-5-fluoro-N4-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-2,4-pyrimidinediamine, N2-[4-[ethoxycarbonyl(dimethyl)methyl]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine was reduced with DIBALH to provide 5-fluoro-N2-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.89 (d, 1H, J=2.9 Hz), 7.57 (s, 1H), 7.41 (d, 2H, J=8.8 Hz), 7.29 (d, 2H, J=8.2 Hz), 7.16 (d, 1H, J=8.2 Hz), 7.10 (d, 1H, J=8.8 Hz), 6.80–6.55 (m, 2H), 5.58 (s, 2H), 1.30 (s, 6H); LCMS: ret. time: 18.01 min.; purity: 98%; MS (m/e): 369 (MH+).

reactant | N2-[4-[ethoxycarbonyl(dimethyl)methyl]phenyl]-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)OC(=O)C(C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F)(C)C | C22H23FN4O3
reactant | DIBALH | CC(C)C[AlH]CC(C)C
product | 5-fluoro-N2-[4-(2-hydroxy-1,1-dimethylethyl)phenyl]-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)C(CO)(C)C)NC1=CC(=CC=C1)O | C20H21FN4O2
